### PR TITLE
[zify] better error reporting

### LINKED ISSUE #13242: Add Zify raises an anomaly.
#### Description of the problem

This code in 8.12 or master:
```coq
Require Import Lia.
Add InjTyp id.
```

And this code in master:
```coq
Require Import Lia.
Add Zify InjTyp id.
````

raise the anomaly:

```
Anomaly "grounding a non evar-free term"
Please report at http://coq.inria.fr/bugs/.
```

#### Coq Version

8.12, master

### LINKED ISSUE #14054: zify: anomaly when adding a parameterized `InjTyp` instance
By adapting the code from [this Coq-club email](https://sympa.inria.fr/sympa/arc/coq-club/2021-03/msg00054.html) by @fajb, I was able to instrument `zify` so that it adds bounds for injections of my custom data type `tuple byte 4` into `Z`:

```coq
Require Import Coq.ZArith.ZArith. Open Scope Z_scope.
Require Coq.Init.Byte Coq.Strings.Byte.
Require Import Coq.micromega.ZifyClasses Coq.micromega.Lia.

Notation byte := Coq.Init.Byte.byte.

Module byte.
  Definition unsigned(b: byte): Z := Z.of_N (Byte.to_N b).
End byte.

Section WithA.
  Context (A: Type).
  Fixpoint tuple(n: nat): Type :=
    match n with
    | O => unit
    | S m => A * tuple m
    end.
End WithA.

Module LittleEndian.
  Fixpoint combine (n : nat) : forall (bs : tuple byte n), Z :=
    match n with
    | O => fun _ => 0
    | S n => fun bs => Z.lor (byte.unsigned (fst bs))
                             (Z.shiftl (combine n (snd bs)) 8)
    end.
  Lemma combine_bound: forall {n: nat} (t: tuple byte n),
      0 <= LittleEndian.combine n t < 2 ^ (8 * Z.of_nat n).
  Admitted.
End LittleEndian.

Instance InjByteTuple4: InjTyp (tuple byte 4) Z := {|
  inj := LittleEndian.combine 4;
  pred x := 0 <= x < 2 ^ 32;
  cstr := @LittleEndian.combine_bound 4;
|}.
Add Zify InjTyp InjByteTuple4.

Program Instance Op_combine4 : UnOp (LittleEndian.combine 4) :=
  {| TUOp := fun x  => x ;  |}.
Add Zify UnOp Op_combine4.

Goal forall w: tuple byte 4,
    LittleEndian.combine 4 w mod 2 ^ 32 = LittleEndian.combine 4 w.
Proof.
  intros.
  zify.
  Z.to_euclidean_division_equations.
  lia.
Qed.
```

However, if I generalize my solution to tuples of any size `n`,

```coq
Instance InjByteTuple{n: nat}: InjTyp (tuple byte n) Z := {|
  inj := LittleEndian.combine n;
  pred x := 0 <= x < 2 ^ (8 * Z.of_nat n);
  cstr := @LittleEndian.combine_bound n;
|}.
Add Zify InjTyp InjByteTuple.
```

I get

```
Error: Anomaly "in econstr: grounding a non evar-free term" Please report at http://coq.inria.fr/bugs/.
```

Coq version: 8.13.0 and master are affected.

Might be a duplicate of https://github.com/coq/coq/issues/13242, but with a less artificial (though less minimal) example.

### PR DESCRIPTION
**Pull request by fajb**
The Add Zify X command may fail with an anomaly if the term is not well-formed.

This PR checks the X argument.
- X is now a reference (previously a constr)
- the head symbol of the type of X is checked

Closes #14054, closes #13242

**Kind:** bug fix 

- [ x] Added / updated test-suite

### CODE REVIEW

**Comment by fajb** [comment]
I think this PR should not pose any issue. @vbgl could you have a look? thanks.

File: theories/micromega/ZifyClasses.v [hunk 1]
```diff
@@ -250,8 +250,18 @@ Register rew_iff     as ZifyClasses.rew_iff.
...
 Register injprop_ok  as ZifyClasses.injprop_ok.
 Register iff         as ZifyClasses.iff.
+
+Register InjTyp      as ZifyClasses.InjTyp.
+Register BinOp       as ZifyClasses.BinOp.
+Register UnOp        as ZifyClasses.UnOp.
+Register CstOp       as ZifyClasses.CstOp.
+Register BinRel      as ZifyClasses.BinRel.
+Register PropOp   as ZifyClasses.PropOp.
+Register PropUOp     as ZifyClasses.PropBinOp.
```
Comment (vbgl) [inline theories/micromega/ZifyClasses.v:260]: This line is dubious (unary on the left, binary on the right).

Comment (fajb) [reply theories/micromega/ZifyClasses.v]: well spotted. Thanks. Really thought I checked side by side...

**Comment by vbgl** [comment]
Can someone please set the milestone as appropriate? I have no clue…

**Review by vbgl — APPROVED** [review]

**Comment by fajb** [comment]
> Can someone please set the milestone as appropriate? I have no clue…

Though, I do not think this would hurt to be included in 8.13.3 - this only prevents invalid user inputs, there is no emergency.,,
Let postpone until 8.14 - someone more informed may revert if needed!

File: plugins/micromega/zify.ml [hunk 2]
```diff
@@ -23,6 +23,19 @@ let zify str =
...
        (Coqlib.lib_ref ("ZifyClasses." ^ str)))
 
+(** classes *)
+let coq_InjTyp = lazy (Coqlib.lib_ref "ZifyClasses.InjTyp")
+
+let coq_BinOp = lazy (Coqlib.lib_ref "ZifyClasses.BinOp")
+let coq_UnOp = lazy (Coqlib.lib_ref "ZifyClasses.UnOp")
+let coq_CstOp = lazy (Coqlib.lib_ref "ZifyClasses.CstOp")
+let coq_BinRel = lazy (Coqlib.lib_ref "ZifyClasses.BinRel")
+let coq_PropBinOp = lazy (Coqlib.lib_ref "ZifyClasses.PropBinOp")
```
Comment (vbgl) [inline plugins/micromega/zify.ml:33]: Is this reference registered somewhere? The `PropOp` instance is registered as “ZifyClasses.PropOp”.

File: plugins/micromega/zify.ml [hunk 3]
```diff
@@ -23,6 +23,19 @@ let zify str =
...
+let coq_PropUOp = lazy (Coqlib.lib_ref "ZifyClasses.PropBinOp")
```
Comment (vbgl) [inline plugins/micromega/zify.ml:34]:
```suggestion
let coq_PropUOp = lazy (Coqlib.lib_ref "ZifyClasses.PropUOp")
```

File: plugins/micromega/zify.ml (hunk 2 above)
Comment (fajb) [reply plugins/micromega/zify.ml:33]: Gosh. Is-it time for an automatic checker? At least, I would benefit from it. Many thanks.

**Comment by vbgl** [comment]
Frédéric, can you please squash the changes into a single patch? Thanks.

**Comment by vbgl** [comment]
Thanks!
